US07060827B2
In a manner analogous to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, the reaction of 2-chloro-5-fluoro-N4-(3hydroxyphenyl)-4-pyrimidinediamine (50 mg, 0.21 mmol) and benzothiophen-3-ylmethylamine (100 mg, 0.61 mmol) gave N2-(benzothiophen-3-ylmethyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine (40 mg, 53%). 1H NMR (CDCl3): δ 4.82 (d, J=6.0 Hz, 2H), 6.45 (dd, J=8.1 Hz, 1H), 6.70 (m, 1H), 6.80 (d, J=8.4 Hz, 1H), 7.03 (t, J=8.1 Hz, 1H), 7.22 (m, 1H), 7.34 (s, 1H), 7.39–7.46 (m, 2H), 7.82 (m, 1H), 7.89–7.92 (m, 2H); 19F NMR (282 MHz, CDCl3): δ −170.02; LCMS: ret. time: 21.29 min.; purity: 92.97%; MS (m/e): 367.03 (MH+).

reactant | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=CC=C1)O | C18H15FN4O3
reactant | benzothiophen-3-ylmethylamine | 0.61 mmol, 100 mg | S1C=C(C2=C1C=CC=C2)CN | C9H9NS
product | N2-(benzothiophen-3-ylmethyl)-5-fluoro-N4-(3-hydroxyphenyl)-2,4-pyrimidinediamine | 40 mg, 53% | S1C=C(C2=C1C=CC=C2)CNC2=NC=C(C(=N2)NC2=CC(=CC=C2)O)F | C19H15FN4OS
